US08957078B2
NaH (210.3 mg, 5.259 mmol) was added to a solution of 4-bromo-3-methyl-isothiazol-5-amine (533 mg, 2.761 mmol) in dry NMP (21.95 mL) at RT. The solution was stirred at RT for 5 min before (6-chlorobenzotriazol-1-yl) 2-amino-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxylate 6a* (914.4 mg, 2.630 mmol) was added. After 10 min, the reaction mixture was treated with water (120 mL) and stirred for 15 mins. The pale brown solid was filtered off and dried in vacuo to afford 4-bromo-3-methylisothiazol-5-yl 2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxylate. (801 mg, 82%). MS (ES+) 370.5.

reactant | NaH | 5.259 mmol, 210.3 mg | [H-].[Na+]
reactant | 4-bromo-3-methyl-isothiazol-5-amine | 2.761 mmol, 533 mg | BrC=1C(=NSC1N)C | C4H5BrN2S
reactant | (6-chlorobenzotriazol-1-yl) 2-amino-6-fluoro-pyrazolo[1,5-a]pyrimidine-3-carboxylate | NC1=NN2C(N=CC(=C2)F)=C1C(=O)ON1N=NC2=C1C=C(C=C2)Cl | C13H7ClFN7O2
reactant | water | 120 mL | O | H2O
solvent | NMP | 21.95 mL | CN1CCCC1=O | C5H9NO
product | 4-bromo-3-methylisothiazol-5-yl 2-amino-6-fluoropyrazolo[1,5-a]pyrimidine-3-carboxylate | NC1=NN2C(N=CC(=C2)F)=C1C(=O)OC1=C(C(=NS1)C)Br | C11H7BrFN5O2S
